US06740662B1
To a 20 ml dioxane solution containing 783 mg of 3-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]benzoic acid were added 0.48 ml of DPPA, 0.31 ml of triethylamine and 0.89 ml of t-butanol, followed by heating under reflux for 18 hours. After cooling to room temperature and concentration of the reaction mixture under a reduced pressure, ethyl acetate was added to the resulting residue, followed by washing with saturate sodium bicarbonate aqueous solution and saturated brine. The organic layer was concentrated under a reduced pressure and the resulting residue was purified by a silica gel column chromatography (hexane-ethyl acetate). To 680 mg portion of 680 mg of thus obtained compound in 5 ml of ethyl acetate was added 5 ml of a 4M hydrogen chloride-ethyl acetate solution under ice cooling, followed by stirring at room temperature for 2 hours. The reaction mixture was concentrated and the resulting crude crystals were recrystallized from ethanol-ethyl acetate to obtain 486 mg of 3-(3-aminophenyl)-4-(3-chlorophenyl)-1-ethyl-7-methyl-1,8-naphthyridin-2(1H)-one monohydrochloride as pale brown crystals.

reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | 3-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]benzoic acid | 783 mg | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)C=1C=C(C(=O)O)C=CC1 | C24H19ClN2O3
reactant | DPPA | 0.48 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.31 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | t-butanol | 0.89 ml | C(C)(C)(C)O | C4H10O
product | 3-(3-aminophenyl)-4-(3-chlorophenyl)-1-ethyl-7-methyl-1,8-naphthyridin-2(1H)-one monohydrochloride | 486 mg | Cl.NC=1C=C(C=CC1)C=1C(N(C2=NC(=CC=C2C1C1=CC(=CC=C1)Cl)C)CC)=O | InChI=1S/C23H20ClN3O.ClH/c1-3-27-22-19(11-10-14(2)26-22)20(15-6-4-8-17(24)12-15)21(23(27)28)16-7-5-9-18(25)13-16;/h4-13H,3,25H2,1-2H3;1H
